### PR TITLE
[Merged by Bors] - feat: translation invariance of meromorphicity

### PR DESCRIPTION
**Pull request by kebekus**
Establish a host of elementary simplifier lemmas, showing that all notions associated with the word "meromorphic" are invariant under translation.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Analytic/Order.lean [hunk 1]
```diff
@@ -484,6 +484,16 @@ lemma analyticOrderAt_centeredMonomial {z₀ : 𝕜} {n : ℕ} :
   rw [AnalyticAt.analyticOrderAt_eq_natCast (by fun_prop)]
   exact ⟨1, by simp [Pi.one_def, analyticAt_const]⟩
 
+/-- The analytic order of the function `(· - c)` at `x` is one if `x = c` and zero otherwise. -/
+@[simp] theorem analyticOrderAt_id_sub_const [DecidableEq 𝕜] {c x : 𝕜} :
```
Comment (felixpernegger) [inline Mathlib/Analysis/Analytic/Order.lean]: It may be worth splitting this up

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 2]
```diff
@@ -621,6 +648,69 @@ theorem fun_iterated_deriv [CompleteSpace E] {n : ℕ} :
     MeromorphicOn (fun z ↦ _root_.deriv^[n] f z) U :=
   hf.iterated_deriv
 
+/-- `MeromorphicOn` is invariant under translation. -/
+@[simp] theorem meromorphicOn_comp_add_const_iff_meromorphicOn {c : 𝕜} {U : Set 𝕜} :
+    MeromorphicOn (f ∘ (· + c)) {x | x + c ∈ U} ↔ MeromorphicOn f U := by
+  constructor
```
Comment (felixpernegger) [inline Mathlib/Analysis/Meromorphic/Basic.lean]: Shouldnt this be a direct consequence of unfolding definitions + ´meromorphicAt_comp_sub_const_iff_meromorphicAt´?

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 3]
```diff
@@ -773,4 +863,32 @@ theorem measurable [MeasurableSpace 𝕜] [SecondCountableTopology 𝕜] [BorelS
 @[deprecated (since := "2025-12-21")] alias MeromorphicOn.measurable := measurable
 @[deprecated (since := "2025-12-21")] alias _root_.MeromorphicOn.measurable := measurable
 
+/-- `Meromorphic` is invariant under translation. -/
+@[simp] theorem meromorphic_comp_add_const_iff_meromorphic {c : 𝕜} :
+    Meromorphic (f ∘ (· + c)) ↔ Meromorphic f := by
+  constructor
```
Comment (felixpernegger) [inline Mathlib/Analysis/Meromorphic/Basic.lean]: Again, I would split the goal up and prove it directly by unfoldsing defs + `meromorphicAt_comp_add_const_iff_meromorphicAt` (as a `calc` block or something)

File: Mathlib/Analysis/Meromorphic/NormalForm.lean [hunk 4]
```diff
@@ -686,6 +714,74 @@ theorem meromorphicNFOn_fun_inv {f : 𝕜 → 𝕜} :
     MeromorphicNFOn (fun x ↦ (f x)⁻¹) U ↔ MeromorphicNFOn f U :=
   meromorphicNFOn_inv
 
+/-- `MeromorphicNFOn` is invariant under translation. -/
+@[simp] theorem meromorphicNFOn_comp_add_const_iff_meromorphicNFOn {c : 𝕜} {U : Set 𝕜} :
+    MeromorphicNFOn (f ∘ (· + c)) {x | x + c ∈ U} ↔ MeromorphicNFOn f U := by
```
Comment (felixpernegger) [inline Mathlib/Analysis/Meromorphic/NormalForm.lean]: same as above

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean
Comment (felixpernegger) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean:1]: This seems better suited for a separate PR

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 5]
```diff
@@ -873,6 +873,14 @@ theorem mem_ball_iff_norm'' : b ∈ ball a r ↔ ‖b / a‖ < r := by
 theorem mem_ball_iff_norm''' : b ∈ ball a r ↔ ‖a / b‖ < r := by
   rw [mem_ball', dist_eq_norm_div]
 
+/-- A translated ball is a ball. -/
```
Comment (felixpernegger) [inline Mathlib/Analysis/Normed/Group/Basic.lean]:
```suggestion
/-- A scaled ball is a ball. -/
```
And change docstring of the to_additive version (similar for the other theorems)

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 6]
```diff
@@ -873,6 +873,14 @@ theorem mem_ball_iff_norm'' : b ∈ ball a r ↔ ‖b / a‖ < r := by
...
+@[to_additive ball_eq_setOf_sub_mem_ball]
+theorem ball_eq_setOf_div_mem_ball'' :
```
Comment (felixpernegger) [inline Mathlib/Analysis/Normed/Group/Basic.lean]:
```suggestion
theorem setOf_div_mem_ball_eq_ball'' :
```
this matches the theorem (similar with the other theorems)

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 7]
```diff
@@ -873,6 +873,14 @@ theorem mem_ball_iff_norm'' : b ∈ ball a r ↔ ‖b / a‖ < r := by
...
+    {x | x / a ∈ ball 1 r} = Metric.ball a r := by
+  ext x
+  rw [mem_ball_iff_norm'']
+  simp
+
 @[to_additive mem_closedBall_iff_norm]
 theorem mem_closedBall_iff_norm'' : b ∈ closedBall a r ↔ ‖b / a‖ ≤ r := by
```
Comment (felixpernegger) [inline Mathlib/Analysis/Normed/Group/Basic.lean:885]: Both names do not seem to helpful. Maybe something like `mem_closedBall_iff_norm_div_le`?

File: Mathlib/Analysis/Normed/Group/Basic.lean
Comment (felixpernegger) [inline Mathlib/Analysis/Normed/Group/Basic.lean:1]: I wonder if we really need some of these lemmas here, is there some scenario where you would use the `{x | x / a ∈ closedBall 1 r}`?

**Review by felixpernegger — COMMENTED** [review]
In general, this PR adds a lot of theorems which are saying the same thing.

In particular, are two version for `(f ∘ (· + c)) (x - c)` and `(fun z ↦ f (z + c)) (x - c)` of any use? (I dont know)

**Comment by kebekus** [comment]
> In general, this PR adds a lot of theorems which are saying the same thing. […] In particular, are two version for `(f ∘ (· + c)) (x - c)` and `(fun z ↦ f (z + c)) (x - c)` of any use? (I dont know)

@felixpernegger Thanks! The theorems come in pairs because simp, rw and apply? cannot tell that f ∘ (· + c) and fun z ↦ f (z + c) are syntactically equal, so a lemma stated in one form won't fire on a goal in the other. This is a documented convention rather than accidental duplication: the unexpanded form is named without a prefix and the expanded form gets a fun_ prefix — which is exactly the …_comp_… / …_fun_comp_… pattern used here. See "Unexpanded and Expanded Forms of Functions" in the Mathlib naming conventions:

- https://leanprover-community.github.io/contribute/naming.html#unexpanded-and-expanded-forms-of-functions

File: Mathlib/Analysis/Analytic/Order.lean (hunk 1 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/Order.lean]: Split as suggested.

File: Mathlib/Analysis/Meromorphic/Basic.lean (hunk 2 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Basic.lean]: @felixpernegger This is what I am trying to do. However, expanding `MeromorphicOn` produces an existence statement over the set `{x | x + c ∈ U}` where rw with meromorphicAt_comp_sub_const_iff_meromorphicAt does not apply, hence the longer proof.

If you have any suggestions for golfing, I'd be more than glad to apply them.

File: Mathlib/Analysis/Meromorphic/Basic.lean (hunk 3 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Basic.lean]: I am unsure what you are suggesting here. Please advise. I formulated an iff statement because that can easily be rw'ed, and it can be applied. That seems to make it more useful than stating the two implications separately.

File: Mathlib/Analysis/Meromorphic/NormalForm.lean (hunk 4 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/NormalForm.lean]: Ditto.

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean:1]: I am unsure why you suggest splitting this off. To me, `meromorphicOrderAt` and `trailingCoefficientAt` belong to the same bucket…

File: Mathlib/Analysis/Normed/Group/Basic.lean
Comment (kebekus) [reply Mathlib/Analysis/Normed/Group/Basic.lean:1]: Thanks for asking. Translated and scaled balls appear all over complex analysis, which is the primary goal of my project.

File: Mathlib/Analysis/Normed/Group/Basic.lean (hunk 5 above)
Comment (kebekus) [reply Mathlib/Analysis/Normed/Group/Basic.lean]: Done.

File: Mathlib/Analysis/Normed/Group/Basic.lean (hunk 6 above)
Comment (kebekus) [reply Mathlib/Analysis/Normed/Group/Basic.lean]: Done.

File: Mathlib/Analysis/Normed/Group/Basic.lean (hunk 7 above)
Comment (kebekus) [reply Mathlib/Analysis/Normed/Group/Basic.lean:885]: Done.

**Comment by kebekus** [comment]
@felixpernegger Thanks again. I tried to implement your suggestions, but I am unsure whether I fully understood your intentions in every case. Please have a look.

**Comment by kebekus** [comment]
Disclosure: Claude Code was used to optimize and streamline the code.

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 8]
```diff
@@ -466,6 +466,33 @@ lemma meromorphicAt_comp_iff_of_deriv_ne_zero [CompleteSpace 𝕜] [CharZero 
...
+    convert h.comp_analyticAt (g := fun z ↦ z - c) (by fun_prop)
+    aesop
+  · intro h
+    rw [(by ring : x = (x - c) + c)] at h
+    exact h.comp_analyticAt (g := fun z ↦ z + c) (by fun_prop)
+
+/-- `MeromorphicAt` is invariant under translation. -/
+@[simp] theorem meromorphicAt_fun_comp_add_const_iff_meromorphicAt {c : 𝕜} {f : 𝕜 → E} :
+    MeromorphicAt (fun z ↦ f (z + c)) (x - c) ↔ MeromorphicAt f x :=
+  meromorphicAt_comp_add_const_iff_meromorphicAt
```
Comment (j-loreaux) [inline Mathlib/Analysis/Meromorphic/Basic.lean]: Can you use `to_fun` to generate this lemma?

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 9]
```diff
@@ -621,6 +648,69 @@ theorem fun_iterated_deriv [CompleteSpace E] {n : ℕ} :
     MeromorphicOn (fun z ↦ _root_.deriv^[n] f z) U :=
   hf.iterated_deriv
 
+/-- `MeromorphicOn` is invariant under translation. -/
+@[simp] theorem meromorphicOn_comp_add_const_iff_meromorphicOn {c : 𝕜} {U : Set 𝕜} :
+    MeromorphicOn (f ∘ (· + c)) {x | x + c ∈ U} ↔ MeromorphicOn f U := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Meromorphic/Basic.lean]: requires `open scoped Pointwise`
```suggestion
    MeromorphicOn (f ∘ (· + c)) (c +ᵥ U) ↔ MeromorphicOn f U := by
```
or, although I prefer the former because it is sort of agnostic about the order of the addition,
```suggestion
    MeromorphicOn (f ∘ (· + c)) (U + {c}) ↔ MeromorphicOn f U := by
```

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 10]
```diff
@@ -621,6 +648,69 @@ theorem fun_iterated_deriv [CompleteSpace E] {n : ℕ} :
...
+
+/-- `MeromorphicOn` is invariant under translation, special case where the set is a ball. -/
+@[simp] theorem meromorphicOn_ball_fun_comp_sub_const_iff_meromorphicOn_ball {c : 𝕜} {R : ℝ} :
+    MeromorphicOn (fun z ↦ f (z - c)) (ball c R) ↔ MeromorphicOn f (ball 0 R) :=
+  meromorphicOn_ball_comp_sub_const_iff_meromorphicOn_ball
+
+/-- `MeromorphicOn` is invariant under translation, special case where the set is a closed ball. -/
+@[simp] theorem meromorphicOn_closedBall_comp_sub_const_iff_meromorphicOn_closedBall {c : 𝕜}
+    {R : ℝ} :
+    MeromorphicOn (f ∘ (· - c)) (closedBall c R) ↔ MeromorphicOn f (closedBall 0 R) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Meromorphic/Basic.lean:653]: I don't like all these special-cased versions. I think what would be better is to change the generic lemmas (possibly so they are not `simp`) to be of the form:
```lean
MeromorphicOn (fun x ↦ f (x + c)) s ↔ MeromorphicOn f (s - {c})
```
(or its `+ᵥ` version). Then with [closedBall_sub_singleton](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Group/Pointwise.html#closedBall_sub_singleton), this would automatically recover lemmas like the one you have here.

I think the reformulated versions of the lemmas should also apply to `MeromorphicAt` too. Note that this has the additional benefit that you have the option of rewriting on thing at a time (i.e., rewriting either the function *or* the point/set).

File: Mathlib/Analysis/Meromorphic/Basic.lean (hunk 3 above)
Comment (j-loreaux) [reply Mathlib/Analysis/Meromorphic/Basic.lean]: Here's a nice short proof, although the precise nature of it changes slightly in light of my other suggestions about reformulating the lemmas.
```lean
  rw [Meromorphic, Meromorphic, (Equiv.subRight c).surjective.forall]
  simp [meromorphicAt_comp_add_const_iff_meromorphicAt]
```

File: Mathlib/Analysis/Meromorphic/NormalForm.lean [hunk 11]
```diff
@@ -409,6 +409,34 @@ theorem meromorphicNFAt_comp_iff_of_deriv_ne_zero [CompleteSpace 𝕜] [CharZero
     meromorphicAt_comp_iff_of_deriv_ne_zero hg hg',
     meromorphicOrderAt_comp_of_deriv_ne_zero hg hg']
 
+/-- `MeromorphicNFAt` is invariant under translation. -/
+@[simp] theorem meromorphicNFAt_comp_add_const_iff_meromorphicNFAt {c : 𝕜} {f : 𝕜 → E} :
+    MeromorphicNFAt (f ∘ (· + c)) (x - c) ↔ MeromorphicNFAt f x := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Meromorphic/NormalForm.lean]: My comments about `MeromorphicOn` and `MeromorphicAt` also apply here.

File: Mathlib/Analysis/Meromorphic/Basic.lean (hunk 8 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Basic.lean]: Yes. Implemented as suggested.

File: Mathlib/Analysis/Meromorphic/Basic.lean (hunk 3 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Basic.lean]: Implemented suggestion by @j-loreaux

File: Mathlib/Analysis/Meromorphic/Basic.lean (hunk 9 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Basic.lean]: Implemented. I found the second suggestion easier to work with.

File: Mathlib/Analysis/Meromorphic/Basic.lean (hunk 10 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/Basic.lean:653]: Suggestions implemented, but special-case lemma still in place (with appropriate `fun_prop` to lower the number of code lines).

### Why keep the special case lemmas?

These lemmas are used time and again in complex analysis, where one proves a theorem ("Poincaré-Jensen Formula") first for balls/closed balls/spheres around the origin and then generalizes everything to arbitrary sets using translations -- this is most certainly true in the upcoming PRs from ProjectVD. To keep the code size in check, I would very much like to have these statements as `simp` lemmas. That said, if you insist that the lemmas should go, I will remove them.

File: Mathlib/Analysis/Meromorphic/NormalForm.lean (hunk 11 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/NormalForm.lean]: Implemented.

File: Mathlib/Analysis/Analytic/Order.lean [hunk 12]
```diff
@@ -484,6 +484,18 @@ lemma analyticOrderAt_centeredMonomial {z₀ : 𝕜} {n : ℕ} :
   rw [AnalyticAt.analyticOrderAt_eq_natCast (by fun_prop)]
   exact ⟨1, by simp [Pi.one_def, analyticAt_const]⟩
 
+/-- The analytic order of the function `(· - c)` at `x` is one if `x = c`. -/
+@[simp] theorem analyticOrderAt_id_sub_const_of_eq {c x : 𝕜} (h : x = c) :
+    analyticOrderAt (· - c) x = 1 := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Order.lean]:
```suggestion
@[simp] theorem analyticOrderAt_id_sub_const_self {c : 𝕜} :
    analyticOrderAt (· - c) c = 1 := by
```
Typically, we don't have lemmas with assumptions `x = y`.

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 13]
```diff
@@ -457,6 +457,23 @@ lemma meromorphicAt_comp_iff_of_deriv_ne_zero [CompleteSpace 𝕜] [CharZero 
...
+/-- `MeromorphicAt` is invariant under translation. -/
+@[to_fun meromorphicAt_fun_comp_add_const_iff_meromorphicAt]
+theorem meromorphicAt_comp_add_const_iff_meromorphicAt {c : 𝕜} {f : 𝕜 → E} :
+    MeromorphicAt (f ∘ (· + c)) x ↔ MeromorphicAt f (x + c) := by
+  constructor
+  · intro h
+    rw [show f = ((f ∘ fun x ↦ x + c) ∘ fun z ↦ z - c) by aesop]
+    rw [show x = (x + c) - c by ring] at h
+    exact h.comp_analyticAt (g := fun z ↦ z - c) (by fun_prop)
+  · exact (·.comp_analyticAt (g := fun z ↦ z + c) (by fun_prop))
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/Basic.lean]: It took me some time to figure out what the `·.` below was doing. Maybe
```suggestion
  · intro h
    exact (h.comp_analyticAt (g := fun z ↦ z + c) (by fun_prop))
```
(and mayvbe remove the intros in both blocks by changing the `constructor` to `refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩`)

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 14]
```diff
@@ -608,6 +625,42 @@ include hf in
 theorem iterated_deriv [CompleteSpace E] {n : ℕ} : MeromorphicOn (_root_.deriv^[n] f) U :=
   fun z hz ↦ (hf z hz).iterated_deriv
 
+/-- `MeromorphicOn` is invariant under translation. -/
+@[to_fun meromorphicOn_fun_comp_add_const_iff_meromorphicOn]
+theorem meromorphicOn_comp_add_const_iff_meromorphicOn {c : 𝕜} {U : Set 𝕜} :
+    MeromorphicOn (f ∘ (· + c)) U ↔ MeromorphicOn f (U + {c}) := by
+  constructor
+  <;> intro h y hy
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/Basic.lean]: can you avoid the `<;>` be replacing `constructor` with a suitable `refine`?

File: Mathlib/Analysis/Meromorphic/Divisor.lean [hunk 15]
```diff
@@ -81,8 +87,8 @@ Special case of `Function.locallyFinsuppWithin.finiteSupport` that frequently sh
 analysis: Divisors on spheres have finite support.
 -/
 lemma _root_.divisor_sphere_support_finite [ProperSpace 𝕜] {f : 𝕜 → E} {R : ℝ} {c : 𝕜} :
-    (divisor f (Metric.sphere c R)).support.Finite :=
-    (divisor f (Metric.sphere c R)).finiteSupport (isCompact_sphere c R)
+    (divisor f (sphere c R)).support.Finite :=
+    (divisor f (sphere c R)).finiteSupport (isCompact_sphere c R)
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/Divisor.lean]:
```suggestion
  (divisor f (sphere c R)).finiteSupport (isCompact_sphere c R)
```

File: Mathlib/Analysis/Meromorphic/NormalForm.lean [hunk 16]
```diff
@@ -409,6 +410,23 @@ theorem meromorphicNFAt_comp_iff_of_deriv_ne_zero [CompleteSpace 𝕜] [CharZero
     meromorphicAt_comp_iff_of_deriv_ne_zero hg hg',
     meromorphicOrderAt_comp_of_deriv_ne_zero hg hg']
 
+/-- `MeromorphicNFAt` is invariant under translation. -/
+@[to_fun meromorphicNFAt_fun_comp_add_const_iff_meromorphicNFAt]
+theorem meromorphicNFAt_comp_add_const_iff_meromorphicNFAt {c : 𝕜} {f : 𝕜 → E} :
+    MeromorphicNFAt (f ∘ (· + c)) x ↔ MeromorphicNFAt f (x + c) := by
+  constructor
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/NormalForm.lean]: Same comment as above about using `refine` and avoiding `·.`

File: Mathlib/Analysis/Meromorphic/NormalForm.lean [hunk 17]
```diff
@@ -686,6 +704,46 @@ theorem meromorphicNFOn_fun_inv {f : 𝕜 → 𝕜} :
     MeromorphicNFOn (fun x ↦ (f x)⁻¹) U ↔ MeromorphicNFOn f U :=
   meromorphicNFOn_inv
 
+
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/NormalForm.lean]:
```suggestion
```

File: Mathlib/Analysis/Meromorphic/NormalForm.lean [hunk 18]
```diff
@@ -686,6 +704,46 @@ theorem meromorphicNFOn_fun_inv {f : 𝕜 → 𝕜} :
...
+/-- `MeromorphicNFOn` is invariant under translation. -/
+@[to_fun meromorphicNFOn_fun_comp_add_const_iff_meromorphicNFOn]
+theorem meromorphicNFOn_comp_add_const_iff_meromorphicNFOn {c : 𝕜} {U : Set 𝕜} :
+    MeromorphicNFOn (f ∘ (· + c)) U ↔ MeromorphicNFOn f (U + {c}) := by
+  constructor
+  <;> intro h y hy
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/NormalForm.lean]: ditto

File: Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean [hunk 19]
```diff
@@ -504,3 +504,51 @@ lemma MeromorphicAt.meromorphicTrailingCoeffAt_fun_pow {n : ℕ} {f : 𝕜 → 
...
+/--
+If `g` is analytic at `x` and not locally constant, and `f` is meromorphic at `g x`, express the
+trailing coefficient of `f ∘ g` at `x` in terms of `g` and `f`.
+-/
+theorem MeromorphicAt.meromorphicTrailingCoeffAt_comp {g : 𝕜 → 𝕜} (hf : MeromorphicAt f (g x))
+    (hg : AnalyticAt 𝕜 g x) (hg_nc : ¬EventuallyConst g (𝓝 x)) :
+    meromorphicTrailingCoeffAt (f ∘ g) x =
+      (meromorphicTrailingCoeffAt (g · - g x) x) ^ (meromorphicOrderAt f (g x)).untop₀ •
+      meromorphicTrailingCoeffAt f (g x) := by
+  by_cases h : meromorphicOrderAt f ( g x ) = ⊤
```
Comment (sgouezel) [inline Mathlib/Analysis/Meromorphic/TrailingCoefficient.lean]:
```suggestion
  by_cases h : meromorphicOrderAt f (g x) = ⊤
```

**Comment by kebekus** [comment]
@sgouezel Good to hear from you. All suggestions implemented.

**Comment by sgouezel** [comment]
bors r+
Thanks!
